US05378803
De-(1,1-dimethylethoxy)carbonylation of Boc-Leu-Phe-NH2 (24.0 g.) was carried out using hydrogen chloride in ethyl acetate (4.4N, 200 ml.) for 2 hr. at room temperature. Upon attempted extraction with ethyl acetate the product unexpectedly entered the saturated aqueous sodium bicarbonate wash solution, which was subjected in its entirety to reverse phase HPLC on octadecylsilated silica gel. The column was washed with water. The product was eluted with methanol and crystallized from ethanol-ether-hexane affording H-Leu-Phe-NH2 as a tan solid (13.0 g., 74% yield, m.r. 127°-131° C.).

reactant | Boc-Leu-Phe-NH2 | 24.0 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C20H31N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 4.4N, 200 ml | C(C)(=O)OCC | C4H8O2
product | H-Leu-Phe-NH2 | 74% yield | N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C15H23N3O2
